US08426447B2
Combined (S)-3-bromo-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (120 mg, 0.293 mmol), tetrakis(triphenylphosphine)palladium (33.8 mg, 0.029 mmol), copper(i) iodide (11.14 mg, 0.059 mmol) and DMF (1950 μL, 0.293 mmol). Added 3,3-dimethylbut-1-yne (96 mg, 1.170 mmol) and DIPA (2085 μL, 14.63 mmol), flushed with argon, sealed and heated at 90° C. overnight. The reaction was diluted with water (25 mL) and poured into a separatory funnel containing ethyl acetate (25 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown oil that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (12 g), 0-10% methanol in DCM with 0.1% ammonium hydroxide) to provide (S)-3-(3,3-dimethylbut-1-ynyl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a tan solid. Found MS: MH+=412.2.

reactant | (S)-3-bromo-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.293 mmol, 120 mg | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1 | C18H12BrN5O2
reactant | DMF | 0.293 mmol, 1950 μL | CN(C)C=O | C3H7NO
reactant | 3,3-dimethylbut-1-yne | 1.170 mmol, 96 mg | CC(C#C)(C)C | C6H10
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 25 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.029 mmol, 33.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(i) iodide | 0.059 mmol, 11.14 mg | [Cu]I
product | (S)-3-(3,3-dimethylbut-1-ynyl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | CC(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1)(C)C | C24H21N5O2
